2125-04-08 07:47:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   Chief Complaint:  Hypoxemia
   HPI:
   This is a 79 yo F h/o ILD (normal O2 sat at baseline), RA, atrial
   flutter s/p ppm, CHF, pacemaker, dementia admitted for hypoxia. Per
   call-in to ED, the patient fell at nursing home yesterday; X-ray pelvic
   and lower back unremarkable. Then this morning at 4am, was found to be
   79% on RA, improved to mid-90's on NRB. Per [**Hospital 328**] Rehab, the patient
   was not in distress or tachypnia. The patient herself is unable to
   answer questions reliably.
   In the ED: The patient arrived hypoxic hypoxic to 84 on ra and 88 on 4
   L NC, 94% on NRB. The patient was not tachypnic or in distress. CXR
   showed pulmonary edema; PE demonstrated crackles [**1-2**] way up lung fields
   bilaterally. BNP elevated to 3284. Trop neg. EKG with old Vpaced at 70,
   neg Sgarbossa's critera. She was placed on Bipap 10/5, nitro gtt and
   lasix 20mg IV.  She put out 650ml u/o. Vitals on admission: temp97.1
   HR72 Bp134/73 RR24 93%NRB. Vitals on transfer: Vpaced 70's LBBB
   afebrile 155/76 18 94% on BiPAP.
   24 Hour Events:
   Delerium o/n-> haldol.
   Transitioned to NC oxygen.
   Chest CT notable for upper lobe predominent fibrotic changes.
   Allergies:
   Verapamil
   Unknown;
   Nsaids
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 1.8 mcg/Kg/mim OFF
   Other ICU medications:
   Furosemide (Lasix) - [**2125-4-7**] 09:57 PM
   Other medications:
   Plaquenil 200 [**Hospital1 **]
   Prednisone 10
   Heparin sc
   CaCO3
   Celexa 20
   Prilosec 20
   Peridex
   Synthroid 88
   Midodrine/florinef (held)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-4-8**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 73 (72 - 84) bpm
   BP: 118/84(92) {85/44(61) - 164/128(136)} mmHg
   RR: 27 (14 - 27) insp/min
   SpO2: 92%
   Heart rhythm: V Paced
   Height: 68 Inch
             Total In:
                                                                    734 mL
                                                                    637 mL
   PO:
                                                                    660 mL
                                                                    480 mL
   TF:
   IVF:
                                                                     74 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                    745 mL
                                                                    300 mL
   Urine:
                                                                    745 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -11 mL
                                                                    337 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   Physical Examination
   GEN   Pleasantly demented.  NAD
   CV      regular, no m/r/g
   LUNGS  Inspiratory crackles diffusely
   ABD   Soft, NT/ND
   EXT   No edema
   Labs / Radiology
   9.0 g/dL
   275 K/uL
   99 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.7 mEq/L
   25 mg/dL
   102 mEq/L
   140 mEq/L
   27.3 %
   9.3 K/uL
        [image002.jpg]
                             [**2125-4-7**]  03:24 PM
                             [**2125-4-8**]  03:37 AM
   WBC
   9.3
   Hct
   27.3
   Plt
   275
   Cr
   0.9
   0.9
   TropT
   <0.01
   Glucose
   117
   99
   Other labs: CK / CKMB / Troponin-T:21//<0.01, Ca++:8.3 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   79 yr old with hx of ILD ? related to RA, ex-smoker, with acute
   hypoxemic respiratory failure.  There was evidence of CHF based on
   presentation, exam, BNP and xray and her oxygenation did improve with
   lasix.  However her chest CT shows extensive fibrotic changes that are
   upper lobe predominent, which is suggestive of RA related pulmonary
   fibrosis.  Given her dementia and poor functional status she is a poor
   candidate for high dose steoids or cytoxan but nevertheless worth a
   limited rheum workup to at least evaluate evidence of an active
   inflammatory process.  Clinically she is stable and comfortable on 5L
   NC and stable for transfer to floor.
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   -TTE to assess EF
 H/O DEMENTIA
   -? Secondary to rheum process ? RA
   -upper lobe predominant fibrotic changes
   -rheum panel sent
   -pulm consult on floor
HYPOXEMIA
   -decreased FiO2 requirement but not back to baseline cont req supp O2
   via NC
H/O FALL(S)
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-4-7**] 02:23 PM
   18 Gauge - [**2125-4-8**] 04:46 AM
   Prophylaxis:
   DVT:  heparin sc
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : FLOOR BED
   Total time spent:  30 minutes

2125-04-08 08:00:00 Physician Resident Progress Note
Chief Complaint: no SOB
   24 Hour Events:
   - nitro gtt titrated up for SBP 150
   - required haldol 1mg IV for agitation/delerium
   Allergies:
   Verapamil
   Unknown;
   Nsaids
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 1.8 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2125-4-7**] 09:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-4-8**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 73 (72 - 84) bpm
   BP: 118/84(92) {85/44(61) - 164/128(136)} mmHg
   RR: 27 (14 - 27) insp/min
   SpO2: 92%
   Heart rhythm: V Paced
   Height: 68 Inch
             Total In:
                                                                    734 mL
                                                                    641 mL
   PO:
                                                                    660 mL
                                                                    480 mL
   TF:
   IVF:
                                                                     74 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                    745 mL
                                                                    300 mL
   Urine:
                                                                    745 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -11 mL
                                                                    341 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   ABG: ///27/
   Physical Examination
   General: Awake, alert, NAD.
   Neck: supple, no JVD or carotid bruits appreciated
   Pulmonary: Lungs with diffuse inspiratory crackles bilaterally all the
   way up lung fields, no tachpnea, no retractions, no accessory muscle
   use, able to speack easily
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted.
   Extremities: No C/C/E bilaterally; non-pitting swelling just around
   ankles not on feet or in sacrum, 2+ radial, DP and PT pulses b/l., no
   tenderness to palaption of hips or back and is comfortable on sitting
   up
   Skin: no rashes or lesions noted.
   Neurologic:
   -mental status: Alert, oriented x [**12-1**]
   Labs / Radiology
   275 K/uL
   9.0 g/dL
   99 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.7 mEq/L
   25 mg/dL
   102 mEq/L
   140 mEq/L
   27.3 %
   9.3 K/uL
        [image002.jpg]
                             [**2125-4-7**]  03:24 PM
                             [**2125-4-8**]  03:37 AM
   WBC
   9.3
   Hct
   27.3
   Plt
   275
   Cr
   0.9
   0.9
   TropT
   <0.01
   Glucose
   117
   99
   Other labs: CK / CKMB / Troponin-T:21//<0.01, Ca++:8.3 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FALL(S)
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   79 yo F h/o ILD (normal O2 sat at baseline), RA,  atrial flutter, CHF,
   pacemaker, dementia admitted for hypoxia.
   .
   # Hypoxia: Per a pulmonolgy note in [**12/2124**] she did not have crackles.
   It is unlikely that she has suddenly developed florid ILD. Given
   diffuse crackles, elevated BNP, edema on CXR, hypoxia is likely [**1-1**]
   pulmonary edema; however, the patient does not have JVD or pedal edema
   which suggests that she is not whole body overloaded.  This suggests
   that she may have had flash pulmonary edema. She is V-paced w/o
   tachycardia but underlying aflutter. She is currently borderline
   hypertensive at SBP, given that her pmhx includes low BP and
   orthostatic hypotension. MI possible, but no CP, trop neg.  It is
   possible that she developed pain from falling yesterday but does not
   appear to be in pain on exam. In addition, in the setting of fall, she
   may have aspirated with a chemical pneumonitis, but she is w/o fever.
   She received BiPap, lasix and nitro gtt in the ED and put out 650ml and
   is now off BiPap, but still hypoxic when trying to wean down FIO2.   CE
   negative. TSH nl.
   - pt still putting out to lasix, no additional lasix for now, but keep
   pt neg
   - d/c nitro gtt now that BP [**Month (only) **]
   - hold florinef and midodrine
   - obtain echo
   - monitor on telemetry
   - f/u CXR in am
   .
   # RA
   - cont prednisone and plaquenil
   # Atrial flutter
   -Pacemaker
   .
   # Fall yesterday: per reports had neg x-rays, no TTP
   .
   # Orthostatic Hypotenion
   - hold midodrine and flornef
   .
   #Hypothyroidism: TSH low/nl 0.35
   - cont levothyroxine
   .
   #Spinal Stenosis
   - cont oxycodone
   .
   # Dementia:
   - cont citalopram
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN low salt diet as tolerated
   .
   #) Access: PIVs
   .
   #) Code Status: DNR, unable to determine if DNI as well
   .
   #) Dispo: pending further work-up and treatment
   .
   # Communication: [**Last Name (un) 7075**] [**Last Name (un) 7445**], ? [**Telephone/Fax (1) 7446**], unable to reach HCP
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-4-7**] 02:23 PM
   18 Gauge - [**2125-4-8**] 04:46 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2125-04-10 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2125-4-10**] 04:45 AM
   MSRA screen
   Allergies:
   Verapamil
   Unknown;
   Nsaids
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-4-9**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-4-10**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 68 (66 - 77) bpm
   BP: 161/57(82) {106/56(68) - 185/96(126)} mmHg
   RR: 17 (10 - 29) insp/min
   SpO2: 90%
   Heart rhythm: V Paced
   Wgt (current): 83.5 kg (admission): 83.8 kg
   Height: 68 Inch
                  Total In:
                                                                    240 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,456 mL
                                                                    219 mL
   Urine:
                                                                  1,456 mL
                                                                    219 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,216 mL
                                                                   -219 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///33/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   311 K/uL
   10.5 g/dL
   102 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.0 mEq/L
   23 mg/dL
   101 mEq/L
   144 mEq/L
   32.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2125-4-7**]  03:24 PM
                             [**2125-4-8**]  03:37 AM
                             [**2125-4-10**]  04:45 AM
   WBC
   9.3
   6.5
   Hct
   27.3
   32.2
   Plt
   275
   311
   Cr
   0.9
   0.9
   0.7
   TropT
   <0.01
   Glucose
   117
   99
   102
   Other labs: PT / PTT / INR:14.3/30.5/1.2, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:[**4-16**], Alk Phos / T Bili:85/0.4,
   Differential-Neuts:89.9 %, Lymph:6.5 %, Mono:2.8 %, Eos:0.6 %,
   Albumin:3.0 g/dL, LDH:299 IU/L, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   Assessment and Plan: 79 yo F h/o ILD (normal O2 sat at baseline), RA,
   atrial flutter, CHF, pacemaker, dementia admitted for hypoxia.
   .
   # Hypoxia: Per a pulmonolgy note in [**12/2124**] she did not have crackles.
   Pt could have a smoldering or acute presentation of ILD (Pt with h.o
   RA). CT scan and CXR are suggesting extensive ILD and ground glass
   opacities. Given diffuse crackles, elevated BNP, edema on CXR, hypoxia
   is likely [**1-1**] pulmonary edema; however, the patient does not have JVD
   or pedal edema which suggests that she is not whole body overloaded.
   This suggests that she may have had flash pulmonary edema. She is
   V-paced w/o tachycardia but underlying aflutter. She is currently not
   particularly hypertensive. MI possible-but 2 sets of CE's flat. She
   received BiPap, lasix and nitro gtt in the ED and put out 650ml and is
   now off BiPap, but still hypoxic when trying to wean down FIO2. LIkely
   is combination of CHF +ILD. Received lasix 40 mg IV x 1 with 1.2 L net
   negative yesterday.
   - hold florinef and midodrine
   - obtain echo
   - monitor on telemetry
   -abx to cover for HAP-vanco/zosyn given persistent hypoxia
   -goal I/O -1L for.
   -from prior discussion, pt would likely need lung bx prior to starting
   immunosuppresant medication
   -rheum recs and OSH records.
   .
   # RA
   - cont prednisone and plaquenil
   -f/u rheum recs and labs (RF, [**Doctor First Name **]/CRP/ESR)
   .
   # Atrial flutter
   -Pacemaker
   .
   # Orthostatic Hypotenion
   - hold midodrine and flornef
   .
   #Hypothyroidism:
   - cont levothyroxine
   - check TSH 0.35 this admit.
   .
   #Spinal Stenosis
   - cont oxycodone
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN: p.o. diet as tolerated
   .
   #) Access: PIVs
   .
   #) Code Status: DNR/DNI
   .
   #) Dispo: pending further work-up and treatment
   .
   # Communication: [**Last Name (un) 7075**] [**Last Name (un) 7445**], [**Telephone/Fax (1) 7493**]; [**Telephone/Fax (1) 7494**] (home) - I
   left a message asking him to call back on [**4-8**] 4PM.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2125-4-9**] 03:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: